US09227970B2
a) (6-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-diethyl-amine
Using diethylamine, this compound was prepared following the same method as for the synthesis of 6-bromo-2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridine Light brown solid (2.0 g, 82%). MS: m/z=270 (M+H+).

reactant | diethylamine | C(C)NCC | C4H11N
reactant | 6-bromo-2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=CC=2N(C1)N=C(N2)N2CCOCC2 | C10H11BrN4O
product | (6-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-diethyl-amine | BrC=1C=CC=2N(C1)N=C(N2)N(CC)CC | C10H13BrN4
